US07741315B2
(6R)-11-(4-Fluorobenzyl)-9-hydroxy-6-(hydroxymethyl)-2-methyl-3,4,5,6,12,13-hexahydro-2H-[1,4]diazocino[2,1-a]-2,6-naphthyridine-1,8,10(11H)-trione
A mixture of (6R)-11-(3-chloro-4-fluorobenzyl)-9-hydroxy-6-(hydroxymethyl)-2-methyl-3,4,5,6,12,13-hexahydro-2H-[1,4]diazocino[2,1-a]-2,6-naphthyridine-1,8,10(11H)-trione (109 mg, 0.24 mmol), 20% Pd(OH)2 on carbon (40 mg) and diisopropylethylamine (0.1 mL) in EtOH (2.4 mL) was stirred under hydrogen atmosphere for 20 hours. The reaction mixture was filtered through a Celite pad and the filtrate concentrated under vacuum to afford the title compound.

reactant | (6R)-11-(3-chloro-4-fluorobenzyl)-9-hydroxy-6-(hydroxymethyl)-2-methyl-3,4,5,6,12,13-hexahydro-2H-[1,4]diazocino[2,1-a]-2,6-naphthyridine-1,8,10(11H)-trione | 0.24 mmol, 109 mg | ClC=1C=C(CN2C(C3=C(C(N4C(=C3CC2)C(N(CCC[C@@H]4CO)C)=O)=O)O)=O)C=CC1F | C22H23ClFN3O5
reactant | diisopropylethylamine | 0.1 mL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | EtOH | 2.4 mL | CCO | C2H6O
catalyst | Pd(OH)2 on carbon | 40 mg | [OH-].[OH-].[Pd+2]
product | (6R)-11-(4-Fluorobenzyl)-9-hydroxy-6-(hydroxymethyl)-2-methyl-3,4,5,6,12,13-hexahydro-2H-[1,4]diazocino[2,1-a]-2,6-naphthyridine-1,8,10(11H)-trione | FC1=CC=C(CN2C(C3=C(C(N4C(=C3CC2)C(N(CCC[C@@H]4CO)C)=O)=O)O)=O)C=C1 | C22H24FN3O5
